Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
expired - trauma/cardiac arrest
 
Major Surgical or Invasive Procedure:
n/a
 
History of Present Illness:
___, partner heard a thump, found down at bottom of stairs, EMS 
arrived cardiac arrest, PEA --> CPR, ROSC.  Sent to ___, 
multiple injuries, intubated, chest tube, transferred to ___.  
A line, Cordis, 6 units of blood, FFP, plts, brought to Trauma 
ICU.  Talked with family --> no more blood, made DNR.  Then CMO. 
 Expired at 0652
 
Past Medical History:
HIV, Hep C, the rest unknown
 
Social History:
___
Family History:
unknown
 
Physical Exam:
Expired
 
Pertinent Results:
n/a
 
Brief Hospital Course:
See HPI
 
Medications on Admission:
unknown
 
Discharge Medications:
n/a
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
n/a
 
Discharge Condition:
n/a
 
Discharge Instructions:
n/a
 
Followup Instructions:
___